US03944673
A solution of 1.5 g. of dl-3-(1',1'-dimethylheptyl)-6,6a,7,8-tetrahydro-1-hydroxy-6,6-dimethyl-9H-dibenzo[b,d]pyran-9-one in 50 ml. of anhydrous tetrahydrofuran (THF) was added dropwise to a solution of lithium metal in liquid ammonia at -80°C. Excess lithium metal was added in chunks to the solution as the blue color, indicating free dissolved lithium, disappeared. After the addition was complete, ammonium chloride was added to react with any excess lithium metal still present. The mixture was then allowed to warm to room temperature in a nitrogen atmosphere during which process the ammonia evaporated. The reaction mixture was then acidified in 1N aqueous hydrochloric acid, and the organic constituents extracted with ethyl acetate. The ethyl acetate extracts were combined, washed with water and dried. Evaporation of the ethyl acetate under reduced pressure yielded 1.4 g of crude dl-trans-3-(1',1'-dimethylheptyl)-6,6a,7,8,10,10a-hexahydro-1-hydroxy-6,6-dimethyl-9H-dibenzo[b,d]pyran-9-one. The crude product was chromatographed over 50 g. of silica gel from benzene solution and the desired product was eluted in 20 ml. fractions with a benzene eluant containing 2 percent ethyl acetate. Fractions 200-240 contained 808 mg. of a white crystalline solid comprising purified dl-trans-3-(1',1'-dimethylheptyl)-6,6a,7,8,10,10a-hexahydro-1-hydroxy-6,6-dimethyl-9H-dibenzo[b,d]pyran-9-one. The purified compound melted at 159°-160°C. after recrystallization from an ethyl acetate-hexane solvent mixture. Rf = 0.45 (silica gel, 20% ethyl acetate:benzene). UV(ethanol) λmax 207/280mμ (ε=47,000/250); IR(CHCl3) 5.85 μ(C=O); NMR (CDCl3) δ7.75(s/1H/exchanges with D2O), δ6.36/6.34 (2d/J= 2 cps/2H/H2 and H4), δ4.15(d broad/J=14,3 cps/1H/H10α), δ3.08-0.7 (multiplet/32H), especially δ1.47/1.13 (2s/each 3H/6α and 6β CH3), δ1.21 (s/6H/gem-dimethyl at C-1') and δ0.83 ppm (t/3H/ω-methyl); molecular ion, m/e 372.

reactant | 3-(1',1'-dimethylheptyl)-6,6a,7,8-tetrahydro-1-hydroxy-6,6-dimethyl-9H-dibenzo[b,d]pyran-9-one | CC(CCCCCC)(C)C=1C=C(C2=C(OC(C3C2=CC(CC3)=O)(C)C)C1)O | C24H34O3
reactant | lithium | [Li] | Li
reactant | ammonia | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-3-(1',1'-dimethylheptyl)-6,6a,7,8,10,10a-hexahydro-1-hydroxy-6,6-dimethyl-9H-dibenzo[b,d]pyran-9-one | CC(CCCCCC)(C)C=1C=C(C2=C(OC([C@H]3[C@H]2CC(CC3)=O)(C)C)C1)O | C24H36O3
